.title CMOS_Inverter

Vdd Vdd 0 1.8V

Vin Vin 0 0V

MP1 Vout Vin Vdd Vdd PMOS_CORE l=1.8e-07 w=1e-06

MN1 Vout Vin 0 0 NMOS_CORE l=1.8e-07 w=5e-07

.model NMOS_CORE nmos (gamma=0.6 kp=0.00012 lambda=0.02 phi=0.7 vt0=0.5)

.model PMOS_CORE pmos (gamma=0.6 kp=4e-05 lambda=0.02 phi=0.7 vt0=-0.5)

