.title ThreeStageRingOscillator
Vdd Vdd 0 1.8V
Vin Vin 0 0.9V
MP1 Vout n3 Vdd Vdd PMOS l=1.8e-07 w=2e-06
MN1 Vout n3 0 0 NMOS l=1.8e-07 w=1e-06
MP2 n2 Vout Vdd Vdd PMOS l=1.8e-07 w=2e-06
MN2 n2 Vout 0 0 NMOS l=1.8e-07 w=1e-06
MP3 n3 n2 Vdd Vdd PMOS l=1.8e-07 w=2e-06
MN3 n3 n2 0 0 NMOS l=1.8e-07 w=1e-06
C1 Vout 0 1e-14
C2 n2 0 1e-14
C3 n3 0 1e-14
.model NMOS nmos (gamma=0.0 kp=0.00012 lambda=0.02 vt0=0.5)
.model PMOS pmos (gamma=0.0 kp=4e-05 lambda=0.02 vt0=-0.5)
