.title Simple_NMOS_Current_Mirror
Vdd Vdd 0 3.3V
Vin Vin 0 1.2V
Rref Vdd Ref 100kOhm
M1 Ref Ref 0 0 NMOS_MOD l=1e-06 w=1e-05
Rgatebias Vin Ref 10kOhm
M2 Vout Ref 0 0 NMOS_MOD l=1e-06 w=1e-05
Rload Vdd Vout 50kOhm
.model NMOS_MOD nmos (kp=0.0002 lambda=0.02 vt0=0.7)
